US05674467
a) 5,10,15,20-Tetrakis-{3-[2-(ethoxycarbonyl)-ethyl]-phenyl}-porphyrin
20.62 g (0.10 mol) of 3-{3-formylphenyl)-propionic acid ethyl ester (CARN 110114-05-1) is dissolved in 300 ml of propionic acid and the solution is heated to 60° C. 6.71 g (0.10 mol) of pyrrole is slowly instilled and the dark solution is stirred for 1 hour at 110° C. After cooling, it is completely concentrated by evaporation in a vacuum, the residue is taken up in dichloromethane and shaken out with saturated aqueous sodium bicarbonate solution. After the drying of the organic phase on sodium sulfate, it is filtered and concentrated by evaporation, and the residue is chromatographed on silica gel 60 (Merck) with dichloromethane/ethanol. The residue of the product fractions that are concentrated by evaporation is recrystallized from isopropanol.

reactant | 3-{3-formylphenyl)-propionic acid ethyl ester | 0.10 mol, 20.62 g | C(C)OC(CCC1=CC(=CC=C1)C=O)=O | C12H14O3
reactant | pyrrole | 0.10 mol, 6.71 g | N1C=CC=C1 | C4H5N
solvent | propionic acid | 300 ml | C(CC)(=O)O | C3H6O2
product | 5,10,15,20-Tetrakis-{3-[2-(ethoxycarbonyl)-ethyl]-phenyl}-porphyrin | C(C)OC(=O)CCC=1C=C(C=CC1)C=1C2=CC=C(N2)C(=C2C=CC(C(=C3C=CC(=C(C=4C=CC1N4)C4=CC(=CC=C4)CCC(=O)OCC)N3)C3=CC(=CC=C3)CCC(=O)OCC)=N2)C2=CC(=CC=C2)CCC(=O)OCC | C64H62N4O8
